US06066733
(a) 2-Chloro-4-ethoxypyrimidine
To a solution of 2,4-dichloropyrimidine (Aldrich, 10.0 g, 67.12 mmol) in abs. EtOH (120 mL) at -3° C. under nitrogen atmosphere was slowly added (over 2 hours) 1M NaOEt/EtOH (68 mL, 68 mmol) and the resulting mixture stirred for 1 hour. Solvent was evaporated in vacuo and the residue partitioned between H2O and Et2O. The aqueous phase was extracted with Et2O and the combined organic phase was washed with brine, dried (Na2SO4) and evaporated (water aspirator pump, 35° C.). The resulting residue was filtered and washed with petroleum ether to provide the desired product (8.05 g, 75%) as a yellowish solid: mp 30-31° C. (lit. 35° C.); 1H NMR (CDCl3): δ 1.40 (t, J=7.2 Hz, 3H), 4.44 (quartet, J=7.2 Hz, 2H), 6.62 (d, J=5.7 Hz, 1H), 8.27 (d, J=5.7 Hz, 1H); MS m/z 161 (M+3, 34%), 159 (M+1, 100%). Anal. Calcd. for C6H7ClN2O: C, 45.44; H, 4.45; N, 17.66; Cl, 22.36. Found: C, 45.32; H, 4.41; N, 17.60; Cl, 22.43.

reactant | 2,4-dichloropyrimidine | 67.12 mmol, 10.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | NaOEt EtOH | 68 mmol, 1M, 68 mL | CC[O-].[Na+].CCO
solvent | EtOH | 120 mL | CCO | C2H6O
product | 2-Chloro-4-ethoxypyrimidine | 8.05 g, 75% | ClC1=NC=CC(=N1)OCC | C6H7ClN2O
